Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Aspirin / Metronidazole / Iodine; Iodine 
Containing / Simvastatin / Ibuprofen
 
Attending: ___.
 
Chief Complaint:
Leg swelling.
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
Patient is an ___ yo F with history of HTN, hyperlipidemia, 
dementia, previously admitted for atypical chest pain who 
presents with bilateral leg swelling.  The patient is a poor 
historian and is unable to give an accurate history.  However, 
according to her, she states that her legs have been swollen for 
sometime.  This makes it difficult to walk.  She is not sure to 
what extent it is worse.  She says that she sleeps on three 
pillows at night and cannot breath if she lies flat.  She also 
complains recently of a sore throat and "hot urine."  She uses a 
walker at baseline and is limited in her ADLs.  She lives across 
the street from her daughter, who visits her regularly 
throughout the day.  There is other involved family as well, 
including a grandson who helps with expenses.
.
I spoke with her grandson on the phone who says that the lower 
extremity swelling has been a chronic problem.  He told me that 
there was no acute worsening, and that the call to EMS that 
prompted this admission was made by another grandson who may 
have been unaware of the chronicity of the swelling.  When she 
came to the ED yesterday patient was not complaining of chest 
pain, dizziness/lightheadeness, or leg pain.
.
In the ED, she had vitals T 98.8, HR 81, BP 171/79, 97%RA. EKG, 
CXR, LENIs were done prior to arriving on floor.
.
This morning, she denies any f/c, cough, CP, SOB, positional 
SOB, abd pain, change in bowel movements.  She eats grits in the 
AM and does not seem to have any restrictions in diet.  Of note, 
EMS commented on ill-kept home and disheveled appearance of 
patient.
 
Past Medical History:
# HTN
# Frequent ED/hospital presentations for noncardiogenic atypical 
CP
--pMIBI ___ negative
--Echo ___: LVH, EF > 55%
# Hyperlipidemia  
# Dementia
# Osteoarthritis
# Spinal stenosis  
# Chronic back pain  
 
Social History:
___
Family History:
Noncontributory.
 
Physical Exam:
VS: T 96.5, 130/70, 65, 20, 97% RA
General: awake, alert, oriented to "hospital" not oriented to 
city, date
HEENT: EOMI, anicteric sclera, MMM 
Neck: supple, no lAD, JVP to 4-5 cm
Chest: CTAB no wheezes rales or crackles
CV: RRR nl S1 S2 no m/r/g
Abd: soft NT/ND + BS no guarding
Ext: warm, well perfused, bilat ___ edema to below knee.  Pits to 
___ cm, with assoc ankle venous discoloration.  Chronic venous 
stasis changes, including skin thickening, induration, and 
hyperpigmentation from the anterior ankles extending to dorsum 
of feet bilaterally.  DP pulses were 1+ bilaterally.  TB pulses 
were not palpable d/t edema.
Neuro: as per above, CNII-XII intact
 
Pertinent Results:
___ 03:56PM   CK(CPK)-282*
___ 03:56PM   CK-MB-7 cTropnT-<0.01
___ 01:00AM   CK(CPK)-96
___ 01:00AM   cTropnT-<0.01
___ 01:00AM   CK-MB-NotDone proBNP-453
.
___ 01:00AM   GLUCOSE-95 UREA N-9 CREAT-0.9 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-28 ANION GAP-13
___ 01:00AM   WBC-4.7 RBC-4.42 HGB-13.3 HCT-39.9 MCV-90 
MCH-30.0 MCHC-33.3 RDW-13.5
.
___ 11:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
URINE CULTURE:  negative to date
.
EKG ___: NSR at 63bpm, LAD, poor R wave progression, 
non-specific STT changes, wide QRS in LBBB pattern, likely LVH, 
no change compared to tracing from ___.
.
CXR ___: IMPRESSION: No acute cardiopulmonary process.
.
___ DOPPLER ___:  IMPRESSION: No deep vein thrombosis in the 
right lower extremity.
.
TTE ___:  The left atrium is normal in size. No atrial septal 
defect is seen by 2D or color Doppler. There is mild symmetric 
left ventricular hypertrophy. The left ventricular cavity size 
is normal. Overall left ventricular systolic function is normal 
(LVEF 70%). Right ventricular chamber size and free wall motion 
are normal. The aortic valve leaflets (3) are mildly thickened 
but aortic stenosis is not present. No aortic regurgitation is 
seen. The mitral valve leaflets are structurally normal. Mild 
(1+) mitral regurgitation is seen. The left ventricular inflow 
pattern suggests impaired relaxation. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion. 
 
Brief Hospital Course:
A/P: ___ with HTN, hyperlipidemia and atypical CP presents with 
bilateral lower extremity edema
.
# LOWER EXTREMITY SWELLING:
In the ED, patient had lower extremity doppler U/S that showed 
no DVT.  She was ruled out for MI with cardiac enzymes x2.  
There were no EKG changes and chest x-ray was normal.  She was 
given 20mg IV lasix upon arrival to the floor and HCTZ was held. 
 BNP was normal 453 and only slightly elevated from previous 
measurement 420 in ___.  D/t concern that the 
swelling may represent systolic dysfunction we ordered an echo, 
which showed normal EF of 70% with 1+ MR and possible impairment 
in ventricular relaxation.  Diastolic dysfunction may be 
contributing to her lower extremity swelling and symptoms of 
orthopnea, but it seems more likely that the problem is 
primarily chronic venous stasis, exacerbated d/t increased 
vasodilation in the warm weather.  Furthermore it is not clear 
that there had been an acute worsening of the swelling to prompt 
this ED visit.  Patient was encouraged to elevate legs whenever 
possible and wear compression stockings.
.
# HYPERTENSION:
We decided to stop her amlodipine as it may be contributing to 
the swelling.  In its place we started low dose lisinopril that 
will likely need uptitration at her outpatient follow-up.  HCTZ 
and atenolol were continued at time of discharge.
.
# LBBB:
EKG from ___ demonstrates similar pattern.  Her EKGs show 
variations in pattern, suggestive of conduction dz.  No symptoms 
to suggest ischemia.  Cardiac enzymes negative as above.
.
# DYSURIA:
Patient was complaining of symptoms of dysuria per nightfloat.  
A UA was ordered which was completely normal (see above).  As 
she did not have any complaints during the admission and was 
urinating without pain, no treatment was given.  This could be 
readdressed as outpatient with caveat that patient is a 
questionable historian.
.
# SOCIAL SITUATION:
Social work was consulted due to the EMS report that her house 
looked "disheveled" upon their arrival.  Social work contacted 
___ (___) and spoke with pt's case 
manager, who reported that she was just out to see pt in her 
home on ___.  Pt lives alone in an apt in ___ 
and her dtr, ___, lives across the street.  Mrs. ___ 
reports pt's home was in good order and that family has been 
very involved/present with pt.  Please refer to ___ 
note for further details.
.
# PHYSICAL THERAPY:
Patient was seen by physical therapy.  She was cleared to go 
home with the warning that family should assist with walking, 
rising from sitting, and moving around the home.  Grandson was 
made aware and confirmed that daughter will be staying with 
patient over the weekend.  Patient will have home ___ scheduled 
for next week.
.
# CODE STATUS:
Discussed with patient but unable to give clear response; also 
discussed with grandson over phone.  No clear decision at this 
time but should be re-addressed at oupatient follow-up.

 
Discharge Medications:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*1*
2. Hydrochlorothiazide 25 mg Tablet Sig: One (1) Tablet PO once 
a day.
Disp:*30 Tablet(s)* Refills:*1*
3. Percocet ___ mg Tablet Sig: One (1) Tablet PO every ___ 
hours.  
4. Aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*1*
5. Oxybutynin Chloride 5 mg Tablet Sig: One (1) Tablet PO twice 
a day.
Disp:*60 Tablet(s)* Refills:*1*
6. Multivitamin     Capsule Sig: One (1) Capsule PO once a day.
Disp:*30 Capsule(s)* Refills:*1*
7. Lisinopril 2.5 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY
Lower extremity swelling
.
SECONDARY
Hyperlipidemia
Hypertension
Chronic back pain
Osteoarthritis
Spinal stenosis

 
Discharge Condition:
Vital signs stable.  Mentating at baseline.

 
Discharge Instructions:
You were admitted for leg swelling.  We were concerned that this 
may be related to your heart.  Our studies indicate that your 
heart is functioning normally.  We believe that the swelling in 
your legs is due to chronic venous insufficiency.  The best 
treatment for this is leg elevation and compression stalkings.
.
We have changed two of your medications.  We have stopped your 
amlodipine (Norvasc) because we believe it may have been 
contributing to your leg swelling.  We have started you on 
another medicine to treat your blood pressure.  This medicine is 
called Lisinopril.  You will take 5mg of Lisinopril once daily 
from now on.
.
You were seen by physical therapy during this hospitalization.  
They recommended that you will need help with walking and rising 
from sitting when you are at home.  We will arrange for you to 
be seen by physical therapists in your home starting next week.
.
You will also have visiting nurses come to your house next week 
to assist you with your new medications and assess your leg 
swelling.
.
You will have follow-up with ___ on ___ in the 
___ Center.  Please call ___ if you have 
any questions regarding this follow-up.
.
You should return to the emergency room or call your doctor if 
you have any new chest pain, light-headedness, or fever.
 
Followup Instructions:
___